US07368578B2
A mixture of {1-benzyl-3-[(3-benzyloxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazol-4-yl}methanol (0.35 g), activated manganese dioxide (1.00 g) and tetrahydrofuran (50 mL) was stirred at room temperature for 15 hrs. Manganese dioxide was removed by filtration and the filtrate was concentrated. The obtained crystals were collected by filtration to give 1-benzyl-3-[(3-benzyloxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carbaldehyde as colorless crystals (0.30 g, yield 86%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 130-131° C.

reactant | {1-benzyl-3-[(3-benzyloxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazol-4-yl}methanol | 0.35 g | C(C1=CC=CC=C1)N1N=C(C(=C1)CO)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OCC1=CC=CC=C1 | C34H31N3O6
catalyst | manganese dioxide | 1.00 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-benzyl-3-[(3-benzyloxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carbaldehyde | 0.30 g, yield 86% | C(C1=CC=CC=C1)N1N=C(C(=C1)C=O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OCC1=CC=CC=C1 | C34H29N3O6
